US07375115B2
2-[1-[2-(tert-Butyldiphenylsiloxy)ethyl]cyclohexyl]ethanol
To a solution of 2-[1-(2-hydroxyethyl)cyclohexyl]ethanol (6.41 g) in dichloromethane (170 mL) were added triethylamine (6.74 mL) and tert-butyldiphenylchlorosilane (11.1 mL) at room temperature. After stirring the solution at room temperature for 18 hours, chloroform was added to the solution, and it was washed in turn with 1N hydrochloric acid, saturated aqueous sodium bicarbonate solution and saturated aqueous sodium chloride solution. The solution was dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The resulting residue was purified by chromatography (silica gel, hexane:ethyl acetate=85:15) to give the title compound (10.97 g).

reactant | 2-[1-(2-hydroxyethyl)cyclohexyl]ethanol | 6.41 g | OCCC1(CCCCC1)CCO | C10H20O2
reactant | triethylamine | 6.74 mL | C(C)N(CC)CC | C6H15N
reactant | tert-butyldiphenylchlorosilane | 11.1 mL | C(C)(C)(C)[Si](Cl)(C1=CC=CC=C1)C1=CC=CC=C1 | C16H19ClSi
reactant | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | dichloromethane | 170 mL | ClCCl | CH2Cl2
product | 2-[1-[2-(tert-Butyldiphenylsiloxy)ethyl]cyclohexyl]ethanol | 10.97 g | O([Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C)CCC1(CCCCC1)CCO | C26H38O2Si
